US04284641
n-Pentylbromide (30 ml; 0.24 mole) was added dropwise to a stirred solution of imidazole (13.6 g; 0.2 mole) in a mixture of methanol (30 ml) and sodium hydroxide solution (30 ml, 10M) maintained at 20° C. When the addition was complete the reaction mixture was stirred and refluxed for 24 hours. The solvent was evaporated, the residue extracted with chloroform (2×50 ml) and the solid remaining removed by filtration. The chloroform solution (filtrate) was dried over magnesium sulphate and concentrated to give a yellow oil which on purification gave 1-n-pentylimidazole as a colourless oil, b.p. 66°-68° C./0.15 mmHg.

reactant | n-Pentylbromide | 0.24 mole, 30 ml | C(CCCC)Br | C5H11Br
reactant | imidazole | 0.2 mole, 13.6 g | N1C=NC=C1 | C3H4N2
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 10M, 30 ml | [OH-].[Na+]
product | 1-n-pentylimidazole | C(CCCC)N1C=NC=C1 | C8H14N2
